US07582626B2
2-Amino-5-methanesulfonylamino-benzenesulfonamide (prepared as described in Examples 1d or 1gc′, 23.27 g, 87.81 mmol) was dissolved in N,N-dimethylacetamide (100 mL) and diethyl ether (100 mL). Ethyl 3-chloro-3-oxo-propionate (13.88 g, 92.20 mmol) was added and the reaction mixture was stirred at 25° C. for 1 h. The reaction mixture was diluted with ethyl acetate (400 mL) and was extracted with water (400 mL). The aqueous layer was back-extracted with ethyl acetate (2×200 mL). The combined organic layers were dried over sodium sulfate, filtered and most of the solvent was removed in vacuo to a volume of ˜100 mL. To the stirred solution was added hexanes (˜100 mL) upon which a precipitate formed. The precipitate was collected by vacuum filtration, washed with hexanes and dried under high vacuum to afford the analytically pure product, N-(4-methanesulfonylamino-2-sulfamoyl-phenyl)-malonamic acid ethyl ester (31.22 g, 85.53 mmol, 97.4%) as a light-brown solid. 1H NMR (400 MHz, CD3OD) δ: 1.31 (3H, t, J=7.0 Hz), 3.00 (3H, s), 3.59 (2H, s), 4.25 (2H, quartet, J=6.9 Hz), 7.42-7.45 (1H, m), 7.86 (1H, m), 7.92 (1H, d, J=8.8 Hz).

reactant | 2-Amino-5-methanesulfonylamino-benzenesulfonamide | NC1=C(C=C(C=C1)NS(=O)(=O)C)S(=O)(=O)N | C7H11N3O4S2
reactant | Ethyl 3-chloro-3-oxo-propionate | 92.20 mmol, 13.88 g | ClC(CC(=O)OCC)=O | C5H7ClO3
solvent | N,N-dimethylacetamide | 100 mL | CN(C(C)=O)C | C4H9NO
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-methanesulfonylamino-2-sulfamoyl-phenyl)-malonamic acid ethyl ester | 85.53 mmol, 31.22 g, 97.4% | C(C)OC(CC(=O)NC1=C(C=C(C=C1)NS(=O)(=O)C)S(N)(=O)=O)=O | C12H17N3O7S2
